US09062055B2
Step 5. 2-(1-Azidoethyl)-1-(3-fluorophenyl)-1H-indole
To the crude 1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl methanesulfonate in N,N-dimethylformamide (5 mL) was added sodium azide (0.20 g, 3.0 mmol). The reaction was stirred at room temperature for 2 hr, quenched with water, and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated and purified on silica gel (eluting with 0-30% EtOAc in hexane) to give the desired product (0.14 g, 49%). LCMS calculated for C16H13FN(M-N3)+: m/z=238.1. Found: 238.1.

reactant | 1-[1-(3-fluorophenyl)-1H-indol-2-yl]ethyl methanesulfonate | CS(=O)(=O)OC(C)C=1N(C2=CC=CC=C2C1)C1=CC(=CC=C1)F | C17H16FNO3S
reactant | sodium azide | 3.0 mmol, 0.20 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(1-Azidoethyl)-1-(3-fluorophenyl)-1H-indole | 0.14 g, 49% | N(=[N+]=[N-])C(C)C=1N(C2=CC=CC=C2C1)C1=CC(=CC=C1)F | C16H13FN4
